US08293752B2
A solution of zinc (135 g, 2.08 mol), PPh3 (545 g, 2.08 mol) and CBr4 (682 g, 4.08 mol) in CH2Cl2 (2 L) was stirred at 0° C. for 1.5 hr. A solution of (R)-tert-butyl 1-oxopropan-2-ylcarbamate (114 g, 0.66 mol) in DCM was added in one portion, and the reaction mixture was stirred at 0° C. for another 3 hr. The mixture was quickly passed though a silica gel, and the solvent was evaporated to give the crude (R)-tert-butyl 4,4-dibromobut-3-en-2-ylcarbamate. To a cooled (−78° C.) solution of the crude compound (R)-tert-butyl 4,4-dibromobut-3-en-2-ylcarbamate in THF (2 L) was added dropwise 2.5 M BuLi (0.75 L, 1.88 mol) under nitrogen. The reaction was quenched with water and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water, dried over MgSO4, filtered and concentrated to give the crude compound N.2, (R)-tert-butyl but-3-yn-2-ylcarbamate, which was used without further purification. 1H NMR (CDCl3) δ 4.47 (br s, 1H), 2.24 (s, 1H), 1.49 (s, 9H), 1.27 (s, 3H).

reactant | PPh3 | 2.08 mol, 545 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 4.08 mol, 682 g | C(Br)(Br)(Br)Br | CBr4
reactant | (R)-tert-butyl 1-oxopropan-2-ylcarbamate | 0.66 mol, 114 g | O=C[C@@H](C)NC(OC(C)(C)C)=O | C8H15NO3
solvent | CH2Cl2 | 2 L | C(Cl)Cl | CH2Cl2
catalyst | zinc | 2.08 mol, 135 g | [Zn] | Zn
product | (R)-tert-butyl 4,4-dibromobut-3-en-2-ylcarbamate | BrC(=C[C@@H](C)NC(OC(C)(C)C)=O)Br | C9H15Br2NO2
